US07326715B2
D: 4-(2-hydroxy-ethylamino)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile
To a stirring solution of 2-[2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol (493 mg) in dimethyl sulfoxide (15 ml) was added sodium cyanide (100 mg). The resulting solution was stirred at room temperature for 72 hrs. After diluting with ethyl acetate (100 ml) and washed with water (100 ml), brine (100 ml), dried over MgSO4 and concentrated in vacuo to give the title compound as a pale yellow solid (380 mg).

reactant | 2-[2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol | 493 mg | CS(=O)(=O)C1=NC(=CC(=N1)NCCO)C1=CC(=CC=C1)C(F)(F)F | C14H14F3N3O3S
reactant | sodium cyanide | 100 mg | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-hydroxy-ethylamino)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | 380 mg | OCCNC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C14H11F3N4O
